US08865713B2
Step D: 6-chloro-1-(2-methoxy-ethoxymethyl)-5-m-tolylsulfanyl-1H-benzoimidazole.
To a cooled solution (0° C.) of 6-chloro-5-m-tolylsulfanyl-1H-benzoimidazole (2.14 g, 7.78 mmol) and THF (39 mL) was added DIPEA (2.71 mL, 15.6 mmol). 1-Chloromethoxy-2-methoxy-ethane (0.977 mL, 8.56 mmol) was added dropwise, and the reaction mixture was allowed to warm to 23° C. over 16 h. The reaction mixture was concentrated. The residue was purified (FCC) (0-100% EtOAc/hexanes) to yield the titled compound (1.89 g, 67%) as a 1:1 mixture of regioisomers. MS (ESI/CI): mass calcd. for C18H19ClN2O2S, 362.1; m/z found, 363.1 [M+H]+. 1H NMR (500 MHz, CDCl3): 7.95 (s, 1H), 7.92 (s, 1H), 7.88 (s, 1H), 7.64 (s, 1H), 7.59 (s, 1H), 7.41 (s, 1H), 7.22-7.18 (m, 3H), 7.16-7.13 (m, 2H), 7.11-7.05 (m, 3H), 5.56 (s, 2H), 5.47 (s, 2H), 3.57-3.54 (m, 2H), 3.52-3.49 (m, 2H), 3.48-3.45 (m, 2H), 3.44-3.42 (m, 2H), 3.35 (s, 3H), 3.30 (s, 3H), 2.30 (s, 6H).

reactant | 6-chloro-5-m-tolylsulfanyl-1H-benzoimidazole | 7.78 mmol, 2.14 g | ClC=1C(=CC2=C(NC=N2)C1)SC=1C=C(C=CC1)C | C14H11ClN2S
reactant | DIPEA | 15.6 mmol, 2.71 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-Chloromethoxy-2-methoxy-ethane | 8.56 mmol, 0.977 mL | ClCOCCOC | C4H9ClO2
solvent | THF | 39 mL | C1CCOC1 | C4H8O
product | 6-chloro-1-(2-methoxy-ethoxymethyl)-5-m-tolylsulfanyl-1H-benzoimidazole | 1.89 g, 67% | ClC=1C(=CC2=C(N(C=N2)COCCOC)C1)SC=1C=C(C=CC1)C | C18H19ClN2O2S
